US07399767B2
3-(6-Methoxy-pyridin-3-yl)-4-methyl-2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-2H-chromen-7-ol
The title product was prepared as a white solid according to the procedure described in Example 34 using 5-[2-[4-(2-chloro-ethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-2H-chromen-3-yl]-2-methoxy-pyridine and pyrolidine as the starting material.

reactant | 5-[2-[4-(2-chloro-ethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-2H-chromen-3-yl]-2-methoxy-pyridine | ClCCOC1=CC=C(C=C1)C1OC2=CC(=CC=C2C(=C1C=1C=CC(=NC1)OC)C)OCOCC[Si](C)(C)C | C30H36ClNO5Si
reactant | pyrolidine | N1CCCC1 | C4H9N
product | 3-(6-Methoxy-pyridin-3-yl)-4-methyl-2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-2H-chromen-7-ol | COC1=CC=C(C=N1)C=1C(OC2=CC(=CC=C2C1C)O)C1=CC=C(C=C1)OCCN1CCCC1 | C28H30N2O4
